### PR TITLE
chore(Data/Set/Basic): remove redundant redeclarations

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
It looks like this changes the order of implicit arguments in at least some of the cases. Not sure how I feel about that relative to the (smallish) win of the change

**Comment by j-loreaux** [comment]
I agree with Ruben. And in some cases, I actually prefer to see the information locally (e.g., there was at least one case `s` was implicit and `t` was explicit, but your change removed the former, making it slightly hard to see the distinction.

@madvorak is there a particular reason this is important to you?

**Comment by madvorak** [comment]
> It looks like this changes the order of implicit arguments in at least some of the cases. Not sure how I feel about that relative to the (smallish) win of the change

Do you think that the variables were *intentionally* repeated in order to reörder the implicit arguments?

**Comment by madvorak** [comment]
> @madvorak is there a particular reason this is important to you?

It confused me when I wanted to add another lemma into the same file.

More generally, I believe that every thing should be written only once in respective scope.

**Comment by madvorak** [comment]
> there was at least one case `s` was implicit and `t` was explicit, but your change removed the former, making it slightly hard to see the distinction)

As long as we follow the principle that all explicit arguments must be written explicitly, it won't be a problem.

**Comment by j-loreaux** [comment]
> More generally, I believe that every thing should be written only once in respective scope.

This is much less important now that the extra variables don't show up in the infoview. As a result I don't see why it's particularly confusing. How did it confuse you?

**Comment by j-loreaux** [comment]
> As long as we follow the principle that all explicit arguments must be written explicitly, it won't be a problem.

This is *not* a principle to which Mathlib adheres

File: Mathlib/Data/Set/Basic.lean [hunk 1]
```diff
@@ -206,32 +206,32 @@ theorem eq_mem_setOf (p : α → Prop) : p = (· ∈ {a | p a}) := rfl
 /-- If `h : a ∈ {x | p x}` then `h.out : p x`. These are definitionally equal, but this can
 nevertheless be useful for various reasons, e.g. to apply further projection notation or in an
 argument to `simp`. -/
-theorem _root_.Membership.mem.out {p : α → Prop} {a : α} (h : a ∈ { x | p x }) : p a :=
+theorem _root_.Membership.mem.out {p : α → Prop} (h : a ∈ { x | p x }) : p a :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:209]: changes order of `p` and `a`

File: Mathlib/Data/Set/Basic.lean [hunk 2]
```diff
@@ -206,32 +206,32 @@ theorem eq_mem_setOf (p : α → Prop) : p = (· ∈ {a | p a}) := rfl
...
 
-theorem mem_def {a : α} {s : Set α} : a ∈ s ↔ s a :=
+theorem mem_def : a ∈ s ↔ s a :=
   Iff.rfl
 
 theorem setOf_bijective : Bijective (setOf : (α → Prop) → Set α) :=
   bijective_id
 
-theorem subset_setOf {p : α → Prop} {s : Set α} : s ⊆ setOf p ↔ ∀ x, x ∈ s → p x :=
+theorem subset_setOf {p : α → Prop} : s ⊆ setOf p ↔ ∀ x, x ∈ s → p x :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:231]: changes order of `p` and `s`

File: Mathlib/Data/Set/Basic.lean [hunk 3]
```diff
@@ -206,32 +206,32 @@ theorem eq_mem_setOf (p : α → Prop) : p = (· ∈ {a | p a}) := rfl
...
   Iff.rfl
 
-theorem setOf_subset {p : α → Prop} {s : Set α} : setOf p ⊆ s ↔ ∀ x, p x → x ∈ s :=
+theorem setOf_subset {p : α → Prop} : setOf p ⊆ s ↔ ∀ x, p x → x ∈ s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:234]: changes order of `p` and `s`

File: Mathlib/Data/Set/Basic.lean [hunk 4]
```diff
@@ -290,14 +290,14 @@ theorem ssubset_def : (s ⊂ t) = (s ⊆ t ∧ ¬t ⊆ s) :=
...
-theorem Subset.rfl {s : Set α} : s ⊆ s :=
+theorem Subset.rfl : s ⊆ s :=
   Subset.refl s
 
 @[trans]
 theorem Subset.trans {a b c : Set α} (ab : a ⊆ b) (bc : b ⊆ c) : a ⊆ c := fun _ h => bc <| ab h
 
 @[trans]
-theorem mem_of_eq_of_mem {x y : α} {s : Set α} (hx : x = y) (h : y ∈ s) : x ∈ s :=
+theorem mem_of_eq_of_mem {x y : α} (hx : x = y) (h : y ∈ s) : x ∈ s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:300]:
```suggestion
theorem mem_of_eq_of_mem (hx : a = b) (h : b ∈ s) : a ∈ s :=
```

File: Mathlib/Data/Set/Basic.lean [hunk 5]
```diff
@@ -310,7 +310,7 @@ theorem Subset.antisymm_iff {a b : Set α} : a = b ↔ a ⊆ b ∧ b ⊆ a :=
 theorem eq_of_subset_of_subset {a b : Set α} : a ⊆ b → b ⊆ a → a = b :=
   Subset.antisymm
 
-theorem mem_of_subset_of_mem {s₁ s₂ : Set α} {a : α} (h : s₁ ⊆ s₂) : a ∈ s₁ → a ∈ s₂ :=
+theorem mem_of_subset_of_mem {s₁ s₂ : Set α} (h : s₁ ⊆ s₂) : a ∈ s₁ → a ∈ s₂ :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:313]: changes the order of `a` and `s₁,s₂`

File: Mathlib/Data/Set/Basic.lean [hunk 6]
```diff
@@ -882,10 +882,10 @@ theorem subset_insert (x : α) (s : Set α) : s ⊆ insert x s := fun _ => Or.in
 theorem mem_insert (x : α) (s : Set α) : x ∈ insert x s :=
   Or.inl rfl
 
-theorem mem_insert_of_mem {x : α} {s : Set α} (y : α) : x ∈ s → x ∈ insert y s :=
+theorem mem_insert_of_mem {x : α} (y : α) : x ∈ s → x ∈ insert y s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:885]:
```suggestion
theorem mem_insert_of_mem (b : α) : a ∈ s → a ∈ insert b s :=
```

File: Mathlib/Data/Set/Basic.lean [hunk 7]
```diff
@@ -882,10 +882,10 @@ theorem subset_insert (x : α) (s : Set α) : s ⊆ insert x s := fun _ => Or.in
...
   Or.inr
 
-theorem eq_or_mem_of_mem_insert {x a : α} {s : Set α} : x ∈ insert a s → x = a ∨ x ∈ s :=
+theorem eq_or_mem_of_mem_insert {x a : α} : x ∈ insert a s → x = a ∨ x ∈ s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:888]:
```suggestion
theorem eq_or_mem_of_mem_insert : a ∈ insert b s → a = b ∨ a ∈ s :=
```

File: Mathlib/Data/Set/Basic.lean [hunk 8]
```diff
@@ -895,14 +895,14 @@ theorem eq_of_not_mem_of_mem_insert : b ∈ insert a s → b ∉ s → b = a :=
   Or.resolve_right
 
 @[simp]
-theorem mem_insert_iff {x a : α} {s : Set α} : x ∈ insert a s ↔ x = a ∨ x ∈ s :=
+theorem mem_insert_iff {x : α} : x ∈ insert a s ↔ x = a ∨ x ∈ s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:898]:
```suggestion
theorem mem_insert_iff : a ∈ insert b s ↔ a = b ∨ a ∈ s :=
```

File: Mathlib/Data/Set/Basic.lean [hunk 9]
```diff
@@ -895,14 +895,14 @@ theorem eq_of_not_mem_of_mem_insert : b ∈ insert a s → b ∉ s → b = a :=
...
   Iff.rfl
 
 @[simp]
-theorem insert_eq_of_mem {a : α} {s : Set α} (h : a ∈ s) : insert a s = s :=
+theorem insert_eq_of_mem (h : a ∈ s) : insert a s = s :=
   ext fun _ => or_iff_right_of_imp fun e => e.symm ▸ h
 
-theorem ne_insert_of_not_mem {s : Set α} (t : Set α) {a : α} : a ∉ s → s ≠ insert a t :=
+theorem ne_insert_of_not_mem (t : Set α) : a ∉ s → s ≠ insert a t :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:905]: changes the order of arguments.

File: Mathlib/Data/Set/Basic.lean [hunk 10]
```diff
@@ -932,7 +932,7 @@ theorem ssubset_iff_insert {s t : Set α} : s ⊂ t ↔ ∃ a ∉ s, insert a s
   simp only [insert_subset_iff, exists_and_right, ssubset_def, not_subset]
   aesop
 
-theorem ssubset_insert {s : Set α} {a : α} (h : a ∉ s) : s ⊂ insert a s :=
+theorem ssubset_insert (h : a ∉ s) : s ⊂ insert a s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:935]: changes the order of arguments.

File: Mathlib/Data/Set/Basic.lean [hunk 11]
```diff
@@ -966,22 +966,22 @@ theorem insert_inj (ha : a ∉ s) : insert a s = insert b s ↔ a = b :=
     congr_arg (fun x => insert x s)⟩
 
 -- useful in proofs by induction
-theorem forall_of_forall_insert {P : α → Prop} {a : α} {s : Set α} (H : ∀ x, x ∈ insert a s → P x)
+theorem forall_of_forall_insert {P : α → Prop} (H : ∀ x, x ∈ insert a s → P x)
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:969]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 12]
```diff
@@ -966,22 +966,22 @@ theorem insert_inj (ha : a ∉ s) : insert a s = insert b s ↔ a = b :=
...
     (x) (h : x ∈ s) : P x :=
   H _ (Or.inr h)
 
-theorem forall_insert_of_forall {P : α → Prop} {a : α} {s : Set α} (H : ∀ x, x ∈ s → P x) (ha : P a)
+theorem forall_insert_of_forall {P : α → Prop} (H : ∀ x, x ∈ s → P x) (ha : P a)
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:973]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 13]
```diff
@@ -966,22 +966,22 @@ theorem insert_inj (ha : a ∉ s) : insert a s = insert b s ↔ a = b :=
...
     (x) (h : x ∈ insert a s) : P x :=
   h.elim (fun e => e.symm ▸ ha) (H _)
 
 /- Porting note: ∃ x ∈ insert a s, P x is parsed as ∃ x, x ∈ insert a s ∧ P x,
  where in Lean3 it was parsed as `∃ x, ∃ (h : x ∈ insert a s), P x` -/
-theorem exists_mem_insert {P : α → Prop} {a : α} {s : Set α} :
+theorem exists_mem_insert {P : α → Prop} :
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:979]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 14]
```diff
@@ -966,22 +966,22 @@ theorem insert_inj (ha : a ∉ s) : insert a s = insert b s ↔ a = b :=
...
     (∃ x ∈ insert a s, P x) ↔ (P a ∨ ∃ x ∈ s, P x) := by
   simp [mem_insert_iff, or_and_right, exists_and_left, exists_or]
 @[deprecated (since := "2024-03-23")] alias bex_insert_iff := exists_mem_insert
 
-theorem forall_mem_insert {P : α → Prop} {a : α} {s : Set α} :
+theorem forall_mem_insert {P : α → Prop} :
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:984]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 15]
```diff
@@ -1183,37 +1183,37 @@ theorem sep_setOf : { x ∈ { y | p y } | q x } = { x | p x ∧ q x } :=
...
+theorem eq_empty_of_ssubset_singleton {x : α} (hs : s ⊂ {x}) : s = ∅ :=
   ssubset_singleton_iff.1 hs
 
-theorem eq_of_nonempty_of_subsingleton {α} [Subsingleton α] (s t : Set α) [Nonempty s]
+theorem eq_of_nonempty_of_subsingleton [Subsingleton α] (s t : Set α) [Nonempty s]
     [Nonempty t] : s = t :=
   nonempty_of_nonempty_subtype.eq_univ.trans nonempty_of_nonempty_subtype.eq_univ.symm
 
-theorem eq_of_nonempty_of_subsingleton' {α} [Subsingleton α] {s : Set α} (t : Set α)
+theorem eq_of_nonempty_of_subsingleton' [Subsingleton α] (t : Set α)
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:1209]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 16]
```diff
@@ -1183,37 +1183,37 @@ theorem sep_setOf : { x ∈ { y | p y } | q x } = { x | p x ∧ q x } :=
...
     (hs : s.Nonempty) [Nonempty t] : s = t :=
   have := hs.to_subtype; eq_of_nonempty_of_subsingleton s t
 
-theorem Nonempty.eq_zero [Subsingleton α] [Zero α] {s : Set α} (h : s.Nonempty) :
+theorem Nonempty.eq_zero [Subsingleton α] [Zero α] (h : s.Nonempty) :
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:1213]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 17]
```diff
@@ -1183,37 +1183,37 @@ theorem sep_setOf : { x ∈ { y | p y } | q x } = { x | p x ∧ q x } :=
...
     s = {0} := eq_of_nonempty_of_subsingleton' {0} h
 
-theorem Nonempty.eq_one [Subsingleton α] [One α] {s : Set α} (h : s.Nonempty) :
+theorem Nonempty.eq_one [Subsingleton α] [One α] (h : s.Nonempty) :
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:1216]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 18]
```diff
@@ -1639,32 +1639,32 @@ theorem diff_self_inter {s t : Set α} : s \ (s ∩ t) = s \ t :=
   sdiff_inf_self_left _ _
 
 @[simp]
-theorem diff_singleton_eq_self {a : α} {s : Set α} (h : a ∉ s) : s \ {a} = s :=
+theorem diff_singleton_eq_self (h : a ∉ s) : s \ {a} = s :=
   sdiff_eq_self_iff_disjoint.2 <| by simp [h]
 
 @[simp]
-theorem diff_singleton_sSubset {s : Set α} {a : α} : s \ {a} ⊂ s ↔ a ∈ s :=
+theorem diff_singleton_sSubset : s \ {a} ⊂ s ↔ a ∈ s :=
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:1646]: changes the order of arguments

File: Mathlib/Data/Set/Basic.lean [hunk 19]
```diff
@@ -1940,10 +1940,11 @@ open Set
 
 namespace Function
 
-variable {α : Type*} {β : Type*}
+variable {α β : Type*}
 
 theorem Injective.nonempty_apply_iff {f : Set α → Set β} (hf : Injective f) (h2 : f ∅ = ∅)
-    {s : Set α} : (f s).Nonempty ↔ s.Nonempty := by
+    {s : Set α} :
+    (f s).Nonempty ↔ s.Nonempty := by
```
Comment (joneugster) [inline Mathlib/Data/Set/Basic.lean:1947]:
```suggestion
    {s : Set α} : (f s).Nonempty ↔ s.Nonempty := by
```

**Review by joneugster — COMMENTED** [review]
Generally, stylistic cleanups are tricky because they bring almost no benefit compared to the reviewing effort. However, I think they should still be possible, and I generally agree to not repeat arguments from `variable` unless there is a reason to do so. (imo it introduces confusion and inconsistency about the order of arguments)

I marked anything below where the cleanup changes the order of implicit arguments; I don't think this is bad, but wanted to mark it for the **maintainer** reviewing this.

(!) There are a few suggestions below which you could incorporate, but otherwise I suggest merging this after merge conflicts have been resolved (and after double-checking @Ruben-VandeVelde and @j-loreaux  do not object)

**Comment by j-loreaux** [comment]
I will not object to this being merged. However, let me point out in response to this:

> Generally, stylistic cleanups are tricky because they bring almost no benefit compared to the reviewing effort. However, I think they should still be possible, and I generally agree to not repeat arguments from variable unless there is a reason to do so. (imo it introduces confusion and inconsistency about the order of arguments)

It's not only review effort that this imposes. Changing argument order also has the potential to disrupt downstream uses of these lemmas. When there is little harm to the current order, and it isn't part of a large refactor that uniformizes this kind of thing across some large subset of Mathlib according to well-defined rules, then I don't really think there is much benefit compared to the cost.

But like I said, I won't object to this being merged. The above is just my opinion, not a community guideline.

**Comment by madvorak** [comment]
I would like to point out that only implicit arguments are affected. That said, I know it may create problems.

**Comment by joneugster** [comment]
After the opinions expressed here and also a discussion on Zulip, I think I'm inclined suggesting to reject this PR with the following suggestions:

- It would be good if a PR like this would cleanup the entire file `Mathlib.Data.Set.Basic` in one go (or in a series of dependent PRs if easier to review in stages). Currently, even after the changes it looks to me like there are still plenty of statements in the file which redeclare implicit variables defined on top.
- It would be helpful if the author of a cleanup PR like this could clearly present some test/checks done to convince the reviewer/maintainer team that the reordering of arguments is deliberate and unharmful. While I agree with the opinion that "it is probably fine and did not look deliberate in the first place", it seems not to satisfy the maintainer/review team in general.

I'm sorry for the troubles Martin, and we hope to see many more of your contributions in the future!

(feel free to reopen if you strongly care about this PR and would like to address the two points above!)
